US07485661B2
Step 5 Propyl 3-amino-1H-furo[3,2-c]pyrazole-5-carboxylate (157)
To a solution of 56.01 g (0.1624 mol) of methyl 5-cyano-4-[2-(diphenylmethylene)hydrazino]-2-furoate in 1.12 L of n-propanol was slowly added 115 mL (2.1 mol) of 98% sulfuric acid. The resulting mixture was refluxed for 2 hours obtaining a clear brown solution. The reaction mass was concentrated under reduced pressure to a small volume, cooled to 0/+4° C. and slowly diluted with 1.1 L of 25% trisodium citrate dihydrate solution over a period of 90 min. under efficient stirring. The mixture (pH=4) was extracted three times with 600 mL of cyclohexane. The organic extracts were discarded while the aqueous layer was cooled to 0/+4° C. and brought to pH 6-7 by carefully adding 1 L of 10% aqueous sodium bicarbonate and, finally, 82 mL of N-methylmorpholine. The resulting suspension was aged for 4 hours at 0/+2° C. and then filtered and washed thoroughly with water affording, after drying, 21.35 g of product as light brown solid.

reactant | methyl 5-cyano-4-[2-(diphenylmethylene)hydrazino]-2-furoate | 0.1624 mol, 56.01 g | C(#N)C1=C(C=C(O1)C(=O)OC)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H15N3O3
reactant | sulfuric acid | 2.1 mol, 115 mL | S(O)(O)(=O)=O | H2O4S
reactant | n-propanol | 1.12 L | C(CC)O | C3H8O
product | Propyl 3-amino-1H-furo[3,2-c]pyrazole-5-carboxylate | NC=1C2=C(NN1)C=C(O2)C(=O)OCCC | C9H11N3O3
